US04692447
A solution of dl-6-acetylamino-1-oxo-1,2,3,4-tetrahydro-naphth-2-yl-acetic acid (3.27 g) in ethanol (60 ml) was treated with 90% hydrazine hydrate (1 ml) and heated at the reflux temperature for 3 hrs. After cooling at 0°-5° C., the precipitate is separated by filtration and recrystallized from acetone-ethanol to yield 8-acetylamino-4,4a,5,6-tetrahydro-2H-benzo(h)-cinnolin-3-one m.p. 284° C.

reactant | dl-6 acetylamino-1-oxo-1,2,3,4-tetrahydro-naphth-2-yl-acetic acid | 3.27 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCNCC2=CC(=C(C=C2)O)OC)O.C(C)(=O)NC(C(=O)O)C1C(C2=CC=CC=C2CC1)=O
reactant | hydrazine hydrate | 1 ml | O.NN
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 8-acetylamino-4,4a,5,6-tetrahydro-2H-benzo(h)-cinnolin-3-one | C(C)(=O)NC=1C=CC2=C(CCC3CC(NN=C23)=O)C1 | C14H15N3O2
